US05466689
3,4-Dihydro-6-hydroxy-I-p-toluenesulfonylbenz[cd]indol-5(1H)-one
To a DCE (600 ml) solution of 3-(5-methoxy-1-p-toluenesulfonyl-indol-3-yl)propionic acid (28.9 g, 77 mmol) was added, while stirring under ice-cooling, (COCl)2 (8.3 ml, 95 mmol), and the mixture was stirred for about 2.5 hours at room temperature. The reaction mixture was concentrated, and the residue was dissolved in DCE (100 ml). The solution was added to a suspension of aluminum chloride powder (33.9 g, 254 mmol) in DCE (430 ml) at 5° C. taking 20 minutes. The mixture was left standing as it was at 5° C. for one hour, then stirred for 2.5 hours at room temperature. To the reaction mixture were added, under ice-cooling, dimethoxyethane (300 ml) and water (300 ml). Resulting precipitates were filtered off, then the organic layer was separated. The aqueous layer was subjected to extraction with chloroform (200 ml). The extract solution was combined with the organic layer, which was washed with an aqueous saline solution. The resultant organic layer was dried (anhydrous sodium sulfate), then the solvent was distilled off under reduced pressure to leave 25 g of crude crystals. The crude crystalline product was subjected to silica gel column chromatography, eluting with chloroform, to obtain crystals, followed by recrystallization from chloroform-n-hexane to afford the title compound (m.p.210°-211° C.).

reactant | 3-(5-methoxy-1-p-toluenesulfonyl-indol-3-yl)propionic acid | 77 mmol, 28.9 g | COC=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)CCC(=O)O | C19H19NO5S
reactant | (COCl)2 | 95 mmol, 8.3 ml | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | aluminum chloride | 254 mmol, 33.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dimethoxyethane | 300 ml | C(OC)COC | C4H10O2
solvent | DCE | 430 ml | ClCCCl | C2H4Cl2
solvent | DCE | 600 ml | ClCCCl | C2H4Cl2
solvent | water | 300 ml | O | H2O
product | 3,4-Dihydro-6-hydroxy-I-p-toluenesulfonylbenz[cd]indol-5(1H)-one | OC1=C2C=3C(=CN(C3C=C1)S(=O)(=O)C1=CC=C(C=C1)C)CCC2=O | C18H15NO4S
